US08859591B2
1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-one (140 mg, 0.49 mmol) was dissolved in 5 mL methanol. Sodium borohydride (18.7 mg, 0.494 mmol) was added. The reaction mixture was concentrated and the residue partitioned between water and ethyl acetate. The organic layer was concentrated to give 1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-ol (140 mg). 1H NMR (400 MHz, CDCl3) δ 8.84 (s, 1H), 8.34-8.40 (m, 1H), 7.96 (d, J=8.4 Hz, 1H), 7.82-7.90 (m, 2H), 4.75-4.82 (m, 1H), 1.64-1.89 (m, 2H), 1.27-1.53 (m, 2H), 0.94 (t, J=7.4 Hz, 3H).

reactant | 1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-one | 0.49 mmol, 140 mg | FC(C=1C=NN(C1)C1=CC=C(C=N1)C(CCC)=O)(F)F | C13H12F3N3O
reactant | Sodium borohydride | 0.494 mmol, 18.7 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-ol | 140 mg | FC(C=1C=NN(C1)C1=CC=C(C=N1)C(CCC)O)(F)F | C13H14F3N3O
